US07148249B2
4-(1-methyl-4-piperazinyl-carbonyl)-1-nitrobenzene
A solution of 20.0 g 4-nitrobenzoylchloride in 100 ml dichloromethane is added dropwise to a solution of 12.0 ml of N-methylpiperazine and 30 ml of triethylamine in 600 ml of dichloromethane at ambient temperature. The reaction solution is stirred for one hour, then washed three times with water, dried with sodium sulphate and evaporated to dryness. The residue is stirred with tert-butylmethylether and dried at 40° C.

reactant | 4-nitrobenzoylchloride | 20.0 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | N-methylpiperazine | 12.0 ml | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 4-(1-methyl-4-piperazinyl-carbonyl)-1-nitrobenzene | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O3
